US04243678
13.3 g of 5-aminoindane, 23.0 g of ethyl 5-bromovalerate and 14.2 g of ethyl diisopropylamine are stirred together for 12 hours at 50°. After addition of diethyl ether thereto, the resulting precipitate is filtered off, the solvent is removed, and all volatile components are distilled off from the residue at 50° under a pressure of 10-2 mm Hg. The residue (which is left) is recrystallized from petrol ether to obtain 8.3 g (55.7% of theory) of ethyl 5-(indan-5-ylamino)valerate, MP 61° to 63°.

reactant | 5-aminoindane | 13.3 g | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | ethyl 5-bromovalerate | 23.0 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | ethyl diisopropylamine | 14.2 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 5-(indan-5-ylamino)valerate | 8.3 g, 55.7% | C1CCC2=CC(=CC=C12)NCCCCC(=O)OCC | C16H23NO2
